US08877794B2
38.4 Propane-1-sulfonic acid [2-(3-{benzylamino-[1-(4-chloro-phenyl)-cyclobutyl]-methyl}-phenoxy)-ethyl]-amide
Titanium (IV) isopropoxide (235 mg, 0.83 mmol) was added under nitrogen at room temperature to a mixture of benzylamine (147 mg, 1.37 mmol) and propane-1-sulfonic acid (2-{3-[1-(4-chloro-phenyl)-cyclobutanecarbonyl]-phenoxy}-ethyl)-amide (120 mg, 0.27 mmol), followed by 1 ml of isopropanol. The mixture was stirred at 35° C. for 6 h, then over night at room temperature followed by addition of NaCNBH4 (43 mg, 0.69 mmol) and heating to reflux for further 6 hours. The suspension was treated with water and diluted with ethylacetate and filtered. The organic layer was separated, washed with water, dried (sodium sulfate) and the solvent evaporated. Purification on SiO2 afforded 14 mg of desired product which was further purified by transformation into the hydrochloride. (white solid, 2.7 mg)

reactant | benzylamine | 1.37 mmol, 147 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | propane-1-sulfonic acid (2-{3-[1-(4-chloro-phenyl)-cyclobutanecarbonyl]-phenoxy}-ethyl)-amide | 0.27 mmol, 120 mg | ClC1=CC=C(C=C1)C1(CCC1)C(=O)C=1C=C(OCCNS(=O)(=O)CCC)C=CC1 | C22H26ClNO4S
reactant | isopropanol | 1 ml | C(C)(C)O | C3H8O
reactant | water | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | Titanium (IV) isopropoxide | 0.83 mmol, 235 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | Propane-1-sulfonic acid [2-(3-{benzylamino-[1-(4-chloro-phenyl)-cyclobutyl]-methyl}-phenoxy)-ethyl]-amide | 14 mg | C(C1=CC=CC=C1)NC(C=1C=C(OCCNS(=O)(=O)CCC)C=CC1)C1(CCC1)C1=CC=C(C=C1)Cl | C29H35ClN2O3S
